US05876945
Z-Asp(OtBu)-OH (10.23 g) in THF (50 mL) was added N-methyl-morpholine (3.30 mL) and isobutyl chloroformate (3.90 mL) at -20° C. After 10 min, the reaction mixture was added to the solution of H-Leu-OBzl (11.81 g in 50 mL HCl3) at -20° C., followed by addition of triethylamine (4.18 mL). The resulting mixture was allowed to warm to room temp. After filtering off the salt, the filtrate was concentrated to an oil. The oil was dissolved in 100 mL of ethyl acetate; washed with 0.2N HCl, 5% NaHCO3 and sat. NaCl; dried over Na2SO4. After filtration, the solvent was evaporated to give Z-Asp(OtBu)-Leu-OBzl as an oil of 14.81 g.

reactant | Z-Asp(OtBu)-OH | 10.23 g | N([C@@H](CC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C16H21NO6
reactant | N-methyl-morpholine | 3.30 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 3.90 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | H-Leu-OBzl | 50 mL, 11.81 g | N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1 | C13H19NO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | triethylamine | 4.18 mL | C(C)N(CC)CC | C6H15N
product | Z-Asp(OtBu)-Leu-OBzl | N([C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C29H38N2O7
